US04067903
N-(n-butyl)-m-toluidine
214 parts of m-toluidine, 75 parts of n-butanol and 10 parts of triphenyl phosphite are heated for 10 hours at 230° C in a stirred autoclave. The autoclave is then let down and the water of reaction formed, the excess of m-toluidine and the unconverted butanol are distilled off under reduced pressure. 130 parts of N-butyl-m-toluidine, corresponding to a yield of 80% of theory, distil at a boiling point of 65° - 70° C/0.2 mm Hg.

reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | n-butanol | C(CCC)O | C4H10O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | N-(n-butyl)-m-toluidine | yield of 80% | C(CCC)NC1=CC(=CC=C1)C | C11H17N
